US05114903
4,4'-dihydroxybenzophenone;
2,2-bis(4-hydroxyphenyl)-4-methylpentane; benzyl 4-hydroxy- phenyl ketone;

reactant | 2,2-bis(4-hydroxyphenyl)-4-methylpentane | OC1=CC=C(C=C1)C(C)(CC(C)C)C1=CC=C(C=C1)O | C18H22O2
reactant | benzyl 4-hydroxy- phenyl ketone | OC1=CC=C(C=C1)C(=O)CC1=CC=CC=C1 | C14H12O2
product | 4,4'-dihydroxybenzophenone | OC1=CC=C(C(=O)C2=CC=C(C=C2)O)C=C1 | C13H10O3
